US08809584B2
Preparation of N-phenethylbenzenesulfonamide
To a stirred solution of 2-phenylethylamine (2 g, 16.5 mmol) in 105 ml DMF at room temperature was added Et3N (2.75 ml, 19.8 mmol). This mixture was stirred for 5 min, and then benzenesulfonyl chloride (2.3 ml, 18.1 mmol) was added at this temperature. The reaction was stirred for 2.5 h, and then, the mixture was evaporated to dryness and the crude was chromatographically purified over SiO2 using Hexane/AcOEt 60/40 as the eluant, yielding 3.12 g (72%) of the desired product.

reactant | 2-phenylethylamine | 16.5 mmol, 2 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | Et3N | 19.8 mmol, 2.75 ml | CCN(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 18.1 mmol, 2.3 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | 105 ml | CN(C)C=O | C3H7NO
product | N-phenethylbenzenesulfonamide | 3.12 g, 72% | C(CC1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C14H15NO2S
